US04256640
(1) 8-Ethyl-4-(N-methyl-N-trifluoroacetylaminomethyl)-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole
To a solution of 8-ethyl-4-methylaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole (2.60 g) in methylene chloride (30 ml) is added pyridine (3 ml) and a solution of trifluoroacetic anhydride (2.73 g) in methylene chloride (3 ml) is added dropwise under ice cooling. The mixture is stirred for 2 hours and extracted with methylene chloride under ice-cooling after addition of water. The extract is washed with water, dried and evaporated to give an oily residue (3.5 g). The product is purified by column chromatography on silica gel and recrystallized from benzene to give the title compound (3.3 g) melting at 131°-134° C. Yield: 93%

reactant | 8-ethyl-4-methylaminomethyl-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 2.60 g | C(C)C=1C=CC=C2C3=C(NC12)SCCC3CNC | C15H20N2S
reactant | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 2.73 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 8-Ethyl-4-(N-methyl-N-trifluoroacetylaminomethyl)-2,3,4,9-tetrahydrothiopyrano[2,3-b]indole | 3.5 g, Yield: 93% | C(C)C=1C=CC=C2C3=C(NC12)SCCC3CN(C(C(F)(F)F)=O)C | C17H19F3N2OS
